US06992107B1
4-(Trifluoromethyl)benzyl 5-amino-4-oxopentanoate hydrochloride [compound 9]
From 4-(trifluoromethyl)benzyl alcohol (4.9 g; 28 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 2 h. The yield was 1.24 g (64%).

reactant | 4-(trifluoromethyl)benzyl alcohol | 28 mmol, 4.9 g | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-(Trifluoromethyl)benzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C13H14F3NO3.ClH/c14-13(15,16)10-3-1-9(2-4-10)8-20-12(19)6-5-11(18)7-17;/h1-4H,5-8,17H2;1H
